US09302989B2
N-{6-[(3-methylbutyl)amino]-6-oxohexyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 3-methylbutan-1-amine for 3-phenylpropan-1-amine and 6-[(1,3-dihydro-2H-isoindol-2-ylcarbonyl)amino]hexanoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.64-7.69 (m, 1H), 7.24-7.34 (m, 4H), 6.26 (t, J=5.5 Hz, 1H), 4.57 (s, 4H), 2.99-3.10 (m, 4H), 2.03 (t, J=7.3 Hz, 2H), 1.41-1.59 (m, 5H), 1.21-1.30 (m, 4H), 0.84 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 346 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-[(1,3-dihydro-2H-isoindol-2-ylcarbonyl)amino]hexanoic acid | C1N(CC2=CC=CC=C12)C(=O)NCCCCCC(=O)O | C15H20N2O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{6-[(3-methylbutyl)amino]-6-oxohexyl}-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCNC(CCCCCNC(=O)N1CC2=CC=CC=C2C1)=O)C | C20H31N3O2
